US07812043B2
6-Fluoro-1-(2-pyridin-2-yl-ethyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide
The title compound was prepared using 6-Fluoro-1H-indole-3-carboxylic acid thiazol-2-ylamide and toluene-4-sulfonic acid 2-pyridin-2-yl-ethyl ester as R5X.

reactant | 6-Fluoro-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CNC2=CC(=CC=C12)F | C12H8FN3OS
reactant | toluene-4-sulfonic acid 2-pyridin-2-yl-ethyl ester | N1=C(C=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO3S
product | 6-Fluoro-1-(2-pyridin-2-yl-ethyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)F)CCC1=NC=CC=C1 | C19H15FN4OS
